US06294536B1
(1) 2,3-Dichloro-5-[4-(2,6-dichloro-4-nitrobenzyl)benzoyl]pyridine
The title compound was prepared as pale yellow crystals at yield of 28.5%, in a similar manner as in Reference Example 1, by the reaction of 5,6-dichloronicotinoylchloride and 4-benzyl-3,5-dichloronitrobenzene.

reactant | 5,6-dichloronicotinoylchloride | ClC=1C(=NC=C(C(=O)Cl)C1)Cl | C6H2Cl3NO
reactant | 4-benzyl-3,5-dichloronitrobenzene | C(C1=CC=CC=C1)C1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl | C13H9Cl2NO2
product | 2,3-Dichloro-5-[4-(2,6-dichloro-4-nitrobenzyl)benzoyl]pyridine | yield of 28.5% | ClC1=NC=C(C=C1Cl)C(C1=CC=C(C=C1)CC1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl)=O | C19H10Cl4N2O3
